US04012513
A solution of methyl 1-(7-chlorocinnolin-4-yl)-5-methoxy-2-methylindolin-3-ylacetate (7.9g.) in dry 1,2-dimethoxyethane [80ml.; dried over sodium alumino-silicate (molecular sieve type 4A; obtainable from BDH Chemicals Ltd., Poole, England)] was mixed with a solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (4.5g.) in dry 1,2-dimethoxyethane (30ml.). The solution was heated under reflux for 20 minutes and then evaporated in vacuo. The residue was extracted with chloroform (5 × 50ml.). Evaporation of the extracts gave an oil, which was purified by chromatography on silica gel (350g.), using ether as eluant, to give methyl 1-(7-chlorocinnolin-4-yl)-5-methoxy-2-methylindol-3-ylacetate as a red syrup, homogeneous by thin layer chromatography (ether: silica gel) [hereinafter referred to as system C], and having a satisfactory NMR spectrum (5-OCH3, τ6.13).

reactant | methyl 1-(7-chlorocinnolin-4-yl)-5-methoxy-2-methylindolin-3-ylacetate | 7.9g | ClC1=CC=C2C(=CN=NC2=C1)N1C(C(C2=CC(=CC=C12)OC)CC(=O)OC)C | C21H20ClN3O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.5g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,2-dimethoxyethane | 80ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 30ml | COCCOC | C4H10O2
product | methyl 1-(7-chlorocinnolin-4-yl)-5-methoxy-2-methylindol-3-ylacetate | ClC1=CC=C2C(=CN=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OC)C | C21H18ClN3O3
